US07470679B2
3-(2-Chloromethyl-4-tert-butoxycarbonylamino-5-methyl-phenyl)-2-(R)-benzyloxycarbonylamino-propionic acid methyl ester
3-(2-Hydroxymethyl-4-tert-butoxycarbonylamino-5-methyl-phenyl)-2-(R)-benzyloxycarbonylamino-propionic acid methyl ester (510 mg, 1.1 mmol) was dissolved in dichoromethane (5 mL). Triethylamine (250 μL, 1.8 mmol ) was added to the mixture followed by methanesulfonyl chloride (100 μL, 1.3 mmol). Mixture was stirred at room temperature for 1.5 hours. Mixture was diluted with dichloromethane then washed once with water, twice with 1N hydrochloric acid, and once with brine. Organics were dried (magnesium sulfate), filtered and concentrated in vacuo. Title compound was obtained as white solid in 91% yield. MS m/e (M+H)+=491.

reactant | 3-(2-Hydroxymethyl-4-tert-butoxycarbonylamino-5-methyl-phenyl)-2-(R)-benzyloxycarbonylamino-propionic acid methyl ester | 1.1 mmol, 510 mg | COC([C@@H](CC1=C(C=C(C(=C1)C)NC(=O)OC(C)(C)C)CO)NC(=O)OCC1=CC=CC=C1)=O | C25H32N2O7
reactant | Triethylamine | 1.8 mmol, 250 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.3 mmol, 100 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichoromethane | 5 mL | ClCCl | CH2Cl2
product | 3-(2-Chloromethyl-4-tert-butoxycarbonylamino-5-methyl-phenyl)-2-(R)-benzyloxycarbonylamino-propionic acid methyl ester | 91% yield | COC([C@@H](CC1=C(C=C(C(=C1)C)NC(=O)OC(C)(C)C)CCl)NC(=O)OCC1=CC=CC=C1)=O | C25H31ClN2O6
